US04478796
There is provided a process for replacing the magnesium oxide portion of a nature magnesium silicate with sodium oxide thereby to form sodium silicate which comprises melting a natural magnesium silicate and sodium carbonate at a temperature of from 1100° to 1350° C. until a clear melt is obtained, the molar ratio of sodium oxide derived from the sodium carbonate per mole of silica contained in the natural magnesium silicate being from 4:1 to 7:1, quenching and extracting said clear melt with water and separating the insoluble magnesium oxide from the solution containing predominantly sodium silicate and sodium hydroxide.

reactant | magnesium silicate | [Si]([O-])([O-])([O-])[O-].[Mg+2].[Mg+2]
reactant | sodium oxide | [O-2].[Na+].[Na+]
product | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+] | InChI=1S/4Na.O4Si/c;;;;1-5(2,3)4/q4*+1;-4
